US07553873B2
2-[(4′-Phenylacetylamino-biphenyl-4-carbonyl)-amino]-pentanedioic acid di-tert-butyl ester (45 mg) was dissolved in dichloroethane (3 mL) and added to TFA (1 mL). The mixture was stirred at room temperature for 3 hrs. Reaction was complete as determined by TLC. Solvent was removed and the resulting solid was dried under vacuum overnight. N-({4′[(phenylacetyl)amino]-1,1′-biphenyl-4-yl}carbonyl)-L-glutamic acid was obtained in 84.2% yield (30.3 mg). MS (ESI) m/z 461.

reactant | 2-[(4′-Phenylacetylamino-biphenyl-4-carbonyl)-amino]-pentanedioic acid di-tert-butyl ester | 45 mg | C(C)(C)(C)OC(C(CCC(=O)OC(C)(C)C)NC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)NC(CC1=CC=CC=C1)=O)=O | C34H40N2O6
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloroethane | 3 mL | ClC(C)Cl | C2H4Cl2
product | N-({4′[(phenylacetyl)amino]-1,1′-biphenyl-4-yl}carbonyl)-L-glutamic acid | 84.2% yield | C1(=CC=CC=C1)CC(=O)NC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)N[C@@H](CCC(=O)O)C(=O)O | C26H24N2O6
